US04904686
3-Methoxy-4,5-dimethylthiophene-2-carboxylic acid
Methyl 4,5-dimethyl-3-methoxythiophene-2-carboxylate (34 g) was heated under reflux in 1M sodium hydroxide solution (500 ml) for 1 hour. After cooling the mixture was acidified with concentrated hydrochloric acid to pH4. The solid was filtered, washed with water and dried, m.p. 142°-143° C.

reactant | Methyl 4,5-dimethyl-3-methoxythiophene-2-carboxylate | 34 g | CC=1C(=C(SC1C)C(=O)OC)OC | C9H12O3S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1M, 500 ml | [OH-].[Na+]
product | 3-Methoxy-4,5-dimethylthiophene-2-carboxylic acid | COC1=C(SC(=C1C)C)C(=O)O | C8H10O3S
